US08183246B2
6-{[6-(2-Fluoro-6-methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}-hexanoic acid
Dissolve 42 mg (0.09 mmol) 6-{[6-(2-fluoro-6-methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester in 1.0 ml dioxan and add 0.26 ml 1 N sodium hydroxide solution. Stir for 16 h at RT, then add 0.26 ml 1 N hydrochloric acid and then 2 ml water and 5 ml dichloromethane. Separate the organic phase, dry over sodium sulphate, filter, and concentrate by evaporation. 39 mg (96% of theor.) of the target compound is obtained.

reactant | 6-{[6-(2-fluoro-6-methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 0.09 mmol, 42 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2OC)F)=O | C27H28FN3O5
reactant | sodium hydroxide | 1 N, 0.26 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 0.26 ml | Cl | ClH
reactant | water | 2 ml | O | H2O
solvent | dioxan | 1.0 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 6-{[6-(2-Fluoro-6-methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}-hexanoic acid | FC1=C(C(=CC=C1)OC)C1=C(C2=C(N=CN=C2NCCCCCC(=O)O)O1)C1=CC=C(C=C1)OC | C26H26FN3O5
